US05041455
A. 3-(1,2,5-oxadiazol-3-yl)-1-methylpyridinium iodide
Methyl iodide (1 ml, 15 mmol) was added to a solution of 3-(1,2,5-oxadiazol-3-yl)pyridine (430 mg, 2.9 mmol) in acetone (20 ml). The reaction mixture was stirred at room temperature for 18 h. The product precipitated from the solution and the title compound was collected by filtration in 82% (700 mg) yield.

reactant | Methyl iodide | 15 mmol, 1 ml | CI | CH3I
reactant | 3-(1,2,5-oxadiazol-3-yl)pyridine | 2.9 mmol, 430 mg | O1N=C(C=N1)C=1C=NC=CC1 | C7H5N3O
solvent | acetone | 20 ml | CC(=O)C | C3H6O
product | 3-(1,2,5-oxadiazol-3-yl)-1-methylpyridinium iodide | [I-].O1N=C(C=N1)C=1C=[N+](C=CC1)C | InChI=1S/C8H8N3O.HI/c1-11-4-2-3-7(6-11)8-5-9-12-10-8;/h2-6H,1H3;1H/q+1;/p-1
